US06495587B1
[B-3] 5-Hydroxymethyl-2-nitrophenol
To a solution of 3-hydroxy-4-nitrobenzoic acid (50.0 g, 0.273 mol) in dichloroethane (1000 mL) under a nitrogen atmosphere were added trimethoxyborane (45.4 g, 0.437 mol) and boron trifluoride diethyl etherate (62.0 g, 0.437 mol) followed by dropwise addition of borane-pyridine complex (38.1 g, 0.410 mol). After stirring at room temperature for 4 hours, methanol (100 mL) was added dropwise under cooling in an ice-bath. The mixture was concentrated under reduced pressure and toluene (400 mL) was added to the residue. The resulting mixture was extracted with aqueous 1N NaOH solution (300 mL×3), and the combined aqueous lavers were acidified with conc. hydrochloric acid to pH 1 and extracted with ethyl acetate (500 mL and 300 mL). The organic layers were combined, washed with water (300 mL×2) and brine successively aid dried over magnesium sulfate, and the solvent was evaporated under reduced pressure to give B-3 (43.3 g, 94%).

reactant | 3-hydroxy-4-nitrobenzoic acid | 0.273 mol, 50.0 g | OC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H5NO5
reactant | trimethoxyborane | 0.437 mol, 45.4 g | COB(OC)OC | C3H9BO3
reactant | boron trifluoride diethyl etherate | 0.437 mol, 62.0 g | B(F)(F)F.CCOCC
reactant | methanol | 100 mL | CO | CH4O
solvent | dichloroethane | 1000 mL | ClC(C)Cl | C2H4Cl2
product | 5-Hydroxymethyl-2-nitrophenol | OCC=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H7NO4
